datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10]([H])[C:20]1([O:21][H])[O][CH](C)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[O]2.[H][O:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"[H][S:10]C(CC)C(C)C(C8=CC=CC=C8)[S][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[O:10]([K])C([H])/C(C)=C([H])\C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C([H])=C(C)C([H])[O+:10]1([K]) 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C(C)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(C)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[O-:10]C(C(C1=C(C=CC=C1)[CH:20](OCC)=[O:21])O)[H]>>[O-:21][CH:20]2(OCC)C3=C(C(C([O:10]2)[H])O)C=CC=C3  10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]C.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])[O][C:20]([O]C)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][NH:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(CC)C([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(CC)C([H])[NH]2.C[NH:10][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)C1=CC=CC=C1)[O-:10])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(CC)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C(C)[CH](CC)[S]1 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[O]2.C[S:10][H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[S]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[S][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"[K][O+:21]([C:20]([O-:10])(O[H])OC1=CC=CC=C1)[H]>>[K][O:21][H].[C:20](=[O:10])(O[H])OC1=CC=CC=C1 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)CC)[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)CC)CCCCCC 10=20;20,21=21"
"CCC1C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC>>CCC1C(O[C:20](=[O:10])N1C)CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C([H])C([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C([H])C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"[NH:10]([H])C([H])C([H])C(O)C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C(O)C([H])C([H])[NH+:10]1([H]) 10=20;20,21=21"
"[O:10]([K])C([H])/C(C)=C([H])\C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C([H])=C(C)C([H])[O+:10]1([K]) 10=20;20,21=21"
"[H][S:10]C([H])C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C(CC)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][S+:10](C(C)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21]C)[S]C(C7=CC=CC=C7)C(CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(CC)[S]2.C[S:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"[O:10]([Na])C(C)C([H])C(O)C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C(O)C([H])C(C)[O+:10]1([Na]) 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1CC)OCCCCCC)[H])C>>C(C([O-:21])CC)(C(O[C:20](=[O:10])OCCCCCC)[H])C 10=20;20,21=21"
"[O:20]=[C:21](OC1=CC=CC=C1)OC.C[O:10][Li]>>C[O+:10]([Li])[C:21]([O-:20])(OC1=CC=CC=C1)OC 10=21;21,20=20"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S]C(CC)C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(CC)C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])C([H])[O]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C([H])[O][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
